US08293768B2
Synthesis of (E)-1-(5-(3-(dimethylamino)acryloyl)-4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one
To a solution of 1-(5-acetyl-4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)-imidazolidin-2-one (1.00 g, 2.60 mmol) in N,N-dimethylformamide (20 mL) was added N,N-dimethylformamide dimethyl acetal (0.45 mL, 3.17 mmol). The reaction mixture was heated at 110° C. for 18 hours. The solvent was removed in vacuo, and the residue was washed with water to afford the title compound in 98% yield (1.12 g): 1H NMR (300 MHz, DMSO-d6) δ 7.70 (d, J=8.1 Hz, 2H), 7.60 (d, J=8.1 Hz, 2H), 7.58 (d, J=12.0 Hz, 1H), 5.28 (d, J=12.0 Hz, 1H), 4.50 (s, 2H), 4.01-3.95 (m, 2H), 3.48-3.43 (m, 2H), 3.08 (s, 3H), 2.81 (s, 3H), 2.48 (s, 3H); MS (ES+) m/z 439.1 (M+1).

reactant | 1-(5-acetyl-4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)-imidazolidin-2-one | 2.60 mmol, 1.00 g | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C | C17H16F3N3O2S
reactant | N,N-dimethylformamide dimethyl acetal | 3.17 mmol, 0.45 mL | COC(N(C)C)OC | C5H13NO2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (E)-1-(5-(3-(dimethylamino)acryloyl)-4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one | 98% yield | CN(/C=C/C(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)C | C20H21F3N4O2S
